US08193228B2
Diethylaminosulfur trifluoride (0.1 mL, 0.78 mmol) was added to a 0° C. solution of 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-(4-pyridin-2-ylphenyl)ethanol (385 mg, 0.65 mmol) in methylene chloride (10 mL). After stirring at 0° C. for 30 min then warming to ambient temperature then letting sit at −20° C. overnight, triethylamine (1 mL) was added. After stirring for a further 5 min, the reaction mixture was concentrated in vacuo. Chromatography over silica eluting with 0-40% ethyl acetate/hexane afforded 2-(4-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-fluoroethyl}phenyl)pyridine.

reactant | Diethylaminosulfur trifluoride | 0.78 mmol, 0.1 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-(4-pyridin-2-ylphenyl)ethanol | 0.65 mmol, 385 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(O)C1=CC=C(C=C1)C1=NC=CC=C1)(CC)C | C41H41N3O
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-fluoroethyl}phenyl)pyridine | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(F)C1=CC=C(C=C1)C1=NC=CC=C1)(CC)C | C41H40FN3
